data/oMe_Silver.jsonl
{"reaction_id": "NR-317_1-C=C(c1ccccc1)c1ccccc1_2-CCn1c2ccccc2c2cc(ccc12)","level": "medium","name": "Weinreb Ketone Synthesis","reactants_smiles": ["C=C(c1ccccc1)c1ccccc1[Mg]Br","CON(C)C(=O)(CCn1c2ccccc2c2cc(ccc12))","O"],"products_smiles": ["C(=O)(C=C(c1ccccc1)c1ccccc1)(CCn1c2ccccc2c2cc(ccc12))"],"conditions": "1. Grignard Reagent; 2. Aqueous workup","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C=C(c1ccccc1)c1ccccc1C(CCn1c2ccccc2c2cc(ccc12))(O[Mg-]1(Br))N(C)[O+]1C","step_weight": 0,"rationale": "The strongly nucleophilic Grignard carbon attacks the electrophilic carbonyl carbon, aided by the electron-withdrawing carbonyl and chelation of the methoxy amide to Mg, stabilizing the tetrahedral intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C=C(c1ccccc1)c1ccccc1)(O)(CCn1c2ccccc2c2cc(ccc12))N(C)OC","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide oxygen, driven by the high basicity of the alkoxide and the availability of protons in acidic or neutral aqueous conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C=C(c1ccccc1)c1ccccc1)(O)(CCn1c2ccccc2c2cc(ccc12))[NH+](C)OC","step_weight": 0,"rationale": "Protonation of the amide nitrogen increases its leaving group ability by generating a positively charged, resonance-stabilized ammonium species."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(C=C(c1ccccc1)c1ccccc1)(CCn1c2ccccc2c2cc(ccc12))","step_weight": 0,"rationale": "Elimination occurs as the protonated amine departs, driven by formation of the strong C=O π bond and the stability of the neutral amine leaving group."}],"description": "The Grignard reagent attacks the electrophilic carbonyl carbon of the Weinreb amide, forming a tetrahedral intermediate stabilized by chelation to magnesium. Proton transfers under aqueous workup prepare the intermediate for elimination of the amine, yielding the ketone selectively without over-addition."}
{"reaction_id": "NR-235_1-C_2-CC_3-c1ccc(OC)cc1_4-F","level": "medium","name": "Smiles Rearrangement","reactants_smiles": ["CNC(=O)C(CC)(c1ccc(OC)cc1)Oc1ccc(F)cc1","CC[O-]"],"products_smiles": ["CN(c1ccc(F)cc1)C(=O)C(CC)(c1ccc(OC)cc1)O"],"conditions": "CCO","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C[N-]C(=O)C(CC)(c1ccc(OC)cc1)Oc1ccc(F)cc1","step_weight": 0,"rationale": "Ethanol’s conjugate base deprotonates the amide nitrogen, increasing its nucleophilicity via negative charge delocalization onto the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH-]1C2(C=CC(F)=C1)OC(CC)(c1ccc(OC)cc1)C(N2C)=O","step_weight": 0,"rationale": "The nitrogen anion attacks the electron-deficient aromatic ring ortho/para to the ether linkage, favored by resonance stabilization of the Meisenheimer complex."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CN(c1ccc(F)cc1)C(=O)C(CC)(c1ccc(OC)cc1)[O-]","step_weight": 0,"rationale": "The intermediate collapses, expelling the alkoxide leaving group to restore aromaticity, a strong thermodynamic driving force."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CN(c1ccc(F)cc1)C(=O)C(CC)(c1ccc(OC)cc1)O","step_weight": 0,"rationale": "The alkoxide oxygen is protonated by solvent ethanol, yielding the neutral hydroxyacetamide product."}],"description": "Under basic ethanol conditions, the amide nitrogen is deprotonated to form a strong nucleophile. This anion attacks the electron-deficient aromatic ring intramolecularly, forming a Meisenheimer complex. Collapse of this intermediate expels the alkoxide, restoring aromaticity, and protonation yields the rearranged hydroxyacetamide."}
